US04337267
Calcium 2-[4-(3-chlorophenoxy)butyl]oxirane-2-carboxylate
400 mg of calcium chloride in 5 ml of water are added to a solution of 1 g of sodium 2-[4-(3-chlorophenoxy)butyl]oxirane-2-carboxylate in 10 ml of water. The greasy residue which has formed is separated off by decantation, and the sediment is washed by two decantations with little water. The residue is dried over phosphorus pentoxide. 840 mg of the title compound are obtained. Decomposition (without melting) at 225° C.

reactant | calcium chloride | 400 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium 2-[4-(3-chlorophenoxy)butyl]oxirane-2-carboxylate | 1 g | ClC=1C=C(OCCCCC2(OC2)C(=O)[O-])C=CC1.[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | Calcium 2-[4-(3-chlorophenoxy)butyl]oxirane-2-carboxylate | 840 mg | ClC=1C=C(OCCCCC2(OC2)C(=O)[O-])C=CC1.[Ca+2].ClC=1C=C(OCCCCC2(OC2)C(=O)[O-])C=CC1 | InChI=1S/2C13H15ClO4.Ca/c2*14-10-4-3-5-11(8-10)17-7-2-1-6-13(9-18-13)12(15)16;/h2*3-5,8H,1-2,6-7,9H2,(H,15,16);/q;;+2/p-2
